US07960391B2
To 0.06 g of 2-(5-bromopyrimidin-2-yl)ethanamine (3.0 mmol) and triethylamine (0.03 g, 1.0 equivalent) in THF (5 ml), at room temperature whilst stirring, was added the 2-trifluoromethyl benzoyl chloride (0.062 g, 1.0 equivalent) and the mixture was left to stir at room temperature overnight. The solvent was removed by evaporation in vacuo and saturated sodium bicarbonate (10 mls) was added. The mixture was extracted with dichloromethane and the organic phase was collected, dried over MgSO4, and evaporated in vacuo to give the crude product which was purified by chromatography on silica using 1:1 heptane/ethyl acetate to yield to 0.036 g of N-[2-(5-bromopyrimidin-2-yl)ethyl]-2-(trifluoromethyl)benzamide (Compound A-1) (32%).

reactant | 2-(5-bromopyrimidin-2-yl)ethanamine | 3.0 mmol, 0.06 g | BrC=1C=NC(=NC1)CCN | C6H8BrN3
reactant | triethylamine | 0.03 g, 1.0 equivalent | C(C)N(CC)CC | C6H15N
reactant | 2-trifluoromethyl benzoyl chloride | 0.062 g, 1.0 equivalent | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-[2-(5-bromopyrimidin-2-yl)ethyl]-2-(trifluoromethyl)benzamide | 0.036 g, 32% | BrC=1C=NC(=NC1)CCNC(C1=C(C=CC=C1)C(F)(F)F)=O | C14H11BrF3N3O
